US07705004B2
To a suspension of 2,4-dichloro-5-methyl-7H-pyrrolo[2,3-d]pyrimidine (0.58 g, 2.86 mmol) in CH2Cl2 (6 mL) was added diisopropylethylamine (DIPEA) (0.56 mL, 3.14 mmol) and p-toluenesulfonyl chloride (TsCl) (0.57 g, 3.0 mmol), followed by dimethylaminopyridine (DMAP) (0.035 g, 0.286 mmol). After stirring at ambient temperature for 1 h, the solution was diluted with ethylacetate, and the organic layer was sequentially washed with 1N HCl, saturated NaHCO3, and brine. The organic extract was then dried over Na2SO4 and concentrated to give a crude residue, which was purified by flash column (hexanes/ethyl acetate, 5:1) to yield 2,4-dichloro-5-methyl-7-tosyl-pyrrolo[2,3-d]pyrimidine (0.38 g, 38%).

reactant | 2,4-dichloro-5-methyl-7H-pyrrolo[2,3-d]pyrimidine | 2.86 mmol, 0.58 g | ClC=1N=C(C2=C(N1)NC=C2C)Cl | C7H5Cl2N3
reactant | diisopropylethylamine | 3.14 mmol, 0.56 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-toluenesulfonyl chloride | 3.0 mmol, 0.57 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dimethylaminopyridine | 0.286 mmol, 0.035 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2,4-dichloro-5-methyl-7-tosyl-pyrrolo[2,3-d]pyrimidine | 0.38 g, 38% | ClC=1N=C(C2=C(N1)N(C=C2C)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C14H11Cl2N3O2S
